US07618960B2
Synthesis of 2-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]ethanol
Lithium borohydride (20 mg) was added to a solution of ethyl [(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]acetate (158 mg) in THF (3 ml) in a nitrogen atmosphere, and the reaction solution was stirred at room temperature for one day. A saturated sodium sulfate solution was added to the reaction solution, and then the precipitated insoluble matter was removed by filtration through celite. Methanol was added to the filtrate, and then the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1) to obtain 103 mg of the title compound.

reactant | Lithium borohydride | 20 mg | [BH4-].[Li+]
reactant | ethyl [(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]acetate | 158 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)NCC(=O)OCC)C | C29H34F3NO3Si
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]ethanol | 103 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)NCCO)C | C27H32F3NO2Si
